US04012513
The starting materials were obtained as described in Example 18 for acetaldehyde N1 -(7-chloroquinazolin-4-yl)-p-methoxyphenylhydrazone hydrochloride. Thus, from acetone p-methoxyphenylhydrazone and 4,7-dichloroquinazoline, there was obtained acetone N1 -(7-chloroquinazolin-4-yl)-p-methoxyphenylhydrazone hydrochloride [this compound was unstable; the free base was shown to be pure by TLC (system C) when first isolated, but it decomposed on keeping] and from benzaldehyde p-methoxyphenylhydrazone and 4,7-dichloroquinazoline, there was obtained benzaldehyde N1 -(7-chloroquinazolin-4-yl)-p-methoxyphenylhydrazone hydrochloride, m.p. 227°-228° C.

reactant | benzaldehyde p-methoxyphenylhydrazone | COC1=CC=C(C=C1)NN=CC1=CC=CC=C1 | C14H14N2O
reactant | 4,7-dichloroquinazoline | ClC1=NC=NC2=CC(=CC=C12)Cl | C8H4Cl2N2
product | benzaldehyde N1 -(7-chloroquinazolin-4-yl)-p-methoxyphenylhydrazone hydrochloride | Cl.ClC1=CC=C2C(=NC=NC2=C1)N(N=CC1=CC=CC=C1)C1=CC=C(C=C1)OC | InChI=1S/C22H17ClN4O.ClH/c1-28-19-10-8-18(9-11-19)27(26-14-16-5-3-2-4-6-16)22-20-12-7-17(23)13-21(20)24-15-25-22;/h2-15H,1H3;1H
